US04363912
A mixture of 1-(2-cyanoethyl)-2-methyl-3-(3-pyridylmethyl)indole (0.8 g), sodium azide (0.95 g), ammonium chloride (0.78 g) and dry dimethylformamide (12 ml) was heated with stirring at 125° C. for 20 hours and then evaporated. Water (25 ml) was added to the residue to dissolve inorganic material. The insoluble portion was crystallised from methanol/ethyl acetate to give 1-[2-(5-tetrazolyl)ethyl]-2-methyl-3-(3-pyridylmethyl)indole (0.20 g), m.p. 173°.

reactant | 1-(2-cyanoethyl)-2-methyl-3-(3-pyridylmethyl)indole | 0.8 g | C(#N)CCN1C(=C(C2=CC=CC=C12)CC=1C=NC=CC1)C | C18H17N3
reactant | sodium azide | 0.95 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.78 g | [Cl-].[NH4+]
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 1-[2-(5-tetrazolyl)ethyl]-2-methyl-3-(3-pyridylmethyl)indole | 0.20 g | N1N=NN=C1CCN1C(=C(C2=CC=CC=C12)CC=1C=NC=CC1)C | C18H18N6
